* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\thirdCircuit.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N005 0 PWL file=ntsc_PWL_signal.pwl
R1 0 N005 75
R17 Vsync 0 15k
R18 Vcc Vsync 10k
X§U4 0 N003 NC_01 Vcc N004 Vsync N003 Vcc NE555
X§U5 0 N014 NC_02 Vcc N016 N013 N014 Vcc NE555
R19 Vcc N013 10k
R20 N013 0 15k
C5 N016 0 10n
C6 N014 0 2.2n
C7 HDR N014 0.1µ
Q2 N014 N015 N007 0 2N3906
Q3 N007 N007 Vcc 0 2N3906
Q4 N015 N007 Vcc 0 2N3906
R21 N015 0 2.2k
C8 N013 Hsync 0.1µ
C9 0 N004 10n
Q5 N003 N002 N001 0 2N3906
Q6 N001 N001 Vcc 0 2N3906
Q7 N002 N001 Vcc 0 2N3906
R22 N002 0 6.8k
C10 N003 0 0.1µ
C11 VDR N003 0.1µ
R2 N006 N005 680
C12 N006 0 47p
C2 N006 N012 1µ
R5 N012 N011 1k
D1 N011 N010 1N4148
C15 N010 0 100n
X§U2 0 N010 Vcc Vee N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 Vcc N017 100k
R7 N017 0 240k
R8 N008 N018 1k
R9 Vcc N018 100k
R11 N018 0 1k
R12 N009 N008 450k
Rpull Vcc N009 2k
V2 Vcc 0 12
V3 0 Vee 12
R3 N012 0 10Meg
R4 Vsync N009 1k
C1 Vsync 0 4.7p
X§U1 N008 N012 Vcc 0 N009 LM311
R10 N019 N021 1k
R13 Vcc N021 100k
R14 N021 0 24k
R15 N020 N019 450k
Rpull1 Vcc N020 2k
X§U3 N019 N009 Vcc 0 N020 LM311
X§U6 0 N020 N023 Vcc N024 N022 N022 Vcc NE555
C3 0 N022 1n
R16 Vcc N022 33k
C4 0 N024 10n
X§U7 0 N025 Hsync Vcc N027 N026 N026 Vcc NE555
C13 N023 N025 100p
R23 N025 Vcc 10k
R24 Vcc N026 4.3k
C14 0 N026 1n
C16 0 N027 10n
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 500u
.inc LM311.sub
.inc LM311.sub
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
