* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\thirdCircuit.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N005 0 PWL file=ntsc_PWL_signal.pwl
R1 0 N005 75
R17 Vsync 0 15k
R18 Vcc Vsync 10k
X§U4 0 N003 NC_01 Vcc N004 Vsync N003 Vcc NE555
X§U5 0 N013 NC_02 Vcc N015 N012 N013 Vcc NE555
R19 Vcc N012 10k
R20 N012 0 15k
C5 N015 0 10n
C6 N013 0 2.2n
C7 HDR N013 0.1µ
Q2 N013 N014 N008 0 2N3906
Q3 N008 N008 Vcc 0 2N3906
Q4 N014 N008 Vcc 0 2N3906
R21 N014 0 2.2k
C8 N012 Hsync 0.1µ
C9 0 N004 10n
Q5 N003 N002 N001 0 2N3906
Q6 N001 N001 Vcc 0 2N3906
Q7 N002 N001 Vcc 0 2N3906
R22 N002 0 6.8k
C10 N003 0 0.1µ
C11 VDR N003 0.1µ
R2 N006 N005 680
C12 N006 0 47p
R8 N009 N016 1k
R9 Vcc N016 100k
R11 N016 0 1k
R12 N010 N009 450k
Rpull Vcc N010 2k
V2 Vcc 0 12
V3 0 Vee 12
R4 N017 N010 1k
C1 N017 0 47p
X§U1 N009 N007 Vcc 0 N010 LM311
R10 N018 N020 1k
R13 Vcc N020 100k
R14 N020 0 24k
R15 N019 N018 450k
Rpull1 Vcc N019 2k
X§U3 N010 N018 Vcc 0 N019 LM311
X§U6 0 N019 N022 Vcc N023 N021 N021 Vcc NE555
C3 0 N021 1n
R16 Vcc N021 22k
C4 0 N023 10n
X§U7 0 N024 N026 Vcc N027 N025 N025 Vcc NE555
C13 N022 N024 100p
R23 N024 Vcc 2.2k
R24 Vcc N025 4.3k
C14 0 N025 1n
C16 0 N027 10n
R25 Hsync N026 10k
R26 Hsync 0 1k
R27 Vsync N017 10k
R28 Vsync 0 1k
C17 N007 N006 0.1µ
X§U8 0 N007 Vcc 0 N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D2 N011 N007 1N4148
R31 N007 0 10Meg
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 250u
.inc LM311.sub
.inc LM311.sub
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
